US05719278
N-[5-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,4-b]azepin-6(1H)-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
To a solution of 2 mmol 1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine and 10 mmol of triethylamine in 25 ml of dichloromethane is added 4.2 mmol of 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride. After stirring over the mixture is worked-up as described for Example 1 and the initial solid treated with 1N NaOH in methanol as described for Example 1 to give the product as a solid.

reactant | 1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine | 2 mmol | N1N=CC2=C1C1=C(NCC2)C=CC=N1 | C10H10N4
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 4.2 mmol | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-[5-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,4-b]azepin-6(1H)-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | N1N=CC2=C1C1=C(N(CC2)C(=O)C=2C=CC(=NC2)NC(C2=C(C=CC(=C2)F)C)=O)C=NC=C1 | C24H19FN6O2
